US06245761B1
Preparation of 2-[(4-chlorophenoxy)methyl]-1-[2-(1-tritylpiperidin-4-yl)ethyl]-1H-indole.
Under an argon atmosphere 2-hydroxymethyl-1-[2-(1-tritylpiperidin-4-yl)ethyl]-1H-indole (3.91 g, 7.81 mmol) was dissolved in about 10 ml of N,N-dimethylformamide. The resulting solution was then placed in an ice bath and sodium hydride (0.468 g, 11.71 mmol) was added and the resulting mixture was stirred at room temperature for about 30 minutes. To the reaction mixture 1-chloro-4-fluorobenzene (0.915 ml, 1.12 g, 8.59 mmol) was added and the resulting mixture was stirred at room temperature for about four days, protected from light.

reactant | 2-hydroxymethyl-1-[2-(1-tritylpiperidin-4-yl)ethyl]-1H-indole | 7.81 mmol, 3.91 g | OCC=1N(C2=CC=CC=C2C1)CCC1CCN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H36N2O
reactant | sodium hydride | 11.71 mmol, 0.468 g | [H-].[Na+]
reactant | 1-chloro-4-fluorobenzene | 8.59 mmol, 0.915 ml, 1.12 g | ClC1=CC=C(C=C1)F | C6H4ClF
solvent | N,N-dimethylformamide | about 10 ml | CN(C=O)C | C3H7NO
product | 2-[(4-chlorophenoxy)methyl]-1-[2-(1-tritylpiperidin-4-yl)ethyl]-1H-indole | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2)CCC2CCN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C41H39ClN2O
